US04559172
Into an autoclave, were charged 30 g of 2-chloro-5-nitrobenzophenone, 300 ml of water, and 9.70 g of potassium hydroxide. The mixture was allowed to react at 150° to 160° C. with stirring for 5 hours. Upon cooling to room temperature, there was obtained a clear liquid, reddish orange in color. The liquid was further cooled below 0° C. and strongly acidified with cold concentrated hydrochloric acid. The precipitated solids were collected by filtration, washed with water, and recrystallized from ethanol to yield 15.7 g (56.1%) of 5-nitro-2-hydroxy-benzophenone having a melting point of 122°-123° C. To 150 ml of 40-% aqueous potassium hydroxide solution, was added 25.0 g of 5-nitro-2-hydroxybenzophenone followed by 50 g of hydroxylamine hydrochloride. After 5 hours, the resulting clear liquid was cooled and acidified with concentrated hydrochloric acid to form a precipitate. The precipitate was washed with water and a small volume of 50-% aqueous methanol, then dried in air, and recrystallized from benzene and petroleum ether to yield 5-nitro-2-hydroxybenzophenone oxime.

reactant | 2-chloro-5-nitrobenzophenone | 30 g | ClC1=C(C(=O)C2=CC=CC=C2)C=C(C=C1)[N+](=O)[O-] | C13H8ClNO3
reactant | potassium hydroxide | 9.70 g | [OH-].[K+]
reactant | hydrochloric acid | Cl | ClH
solvent | water | 300 ml | O | H2O
product | 5-nitro-2-hydroxy-benzophenone | 15.7 g, 56.1% | [N+](=O)([O-])C=1C=CC(=C(C(=O)C2=CC=CC=C2)C1)O | C13H9NO4
